datasets/10k__Tet_Int.csv
SMILES Labelled
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C([H])[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C([H])[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(C)[NH+:10](C)C([H])C([H])C1C>>[NH:10](C)C([H])C([H])C([C:20](C)=[O:21])C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"CN([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CC)CCCCCC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CC)[O-:10])CCCCCC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)[H].[O-:21]CC>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C1=CC=CC=C1)[H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C)[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C)C 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CCCCCC)C.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C)[H]>>CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C)[O-:10])[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)CCCCCC)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O]C(C)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.[H][S:10][H] 21=20;20,10=10"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCC)C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"[NH:10](C)C([H])C([H])C([H])C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])C([H])C([H])[NH+:10]1(C) 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH]([H])[S]1 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][S:10]C(C)C([H])C(C)[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
